US07211573B2
8.00 g (19 mmol) racemic (2S,3R and 2R,3S)-5-Benzyloxy-2-dibenzylamino-3-hydroxy-pentanoic acid in 25 ml dimethylformamide were added at 0° C. to a suspension of 1.83 g (42 mmol) sodium hydride (55%) in 25 ml dimethylformamide. The suspension was stirred for 3 hours and then 6.67 g (42 mmol) 2,5-difluoro-nitrobenzene in 10 ml dimethylformamide were added. After stirring overnight the mixture was poured under ice water and the pH was adjusted to 1. Extraction with ethylacetate and chromatography on silicagel with heptane/ethylacetate (2:1 to 1:1) yielded 9.1 g (85%) racemic (2S,3R and 2R,3S)-5-benzyloxy-2-dibenzylamino-3-(4-fluoro-2-nitro-phenoxy)-pentanoic acid as yellow oil, MS m/e (%): 559.3 (M+H+, 100).

reactant | 5-Benzyloxy-2-dibenzylamino-3-hydroxy-pentanoic acid | C(C1=CC=CC=C1)OCCC(C(C(=O)O)N(CC1=CC=CC=C1)CC1=CC=CC=C1)O | C26H29NO4
reactant | sodium hydride | 42 mmol, 1.83 g | [H-].[Na+]
reactant | 2,5-difluoro-nitrobenzene | 42 mmol, 6.67 g | FC1=C(C=C(C=C1)F)[N+](=O)[O-] | C6H3F2NO2
solvent | dimethylformamide | 25 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 25 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | 5-benzyloxy-2-dibenzylamino-3-(4-fluoro-2-nitro-phenoxy)-pentanoic acid | C(C1=CC=CC=C1)OCCC(C(C(=O)O)N(CC1=CC=CC=C1)CC1=CC=CC=C1)OC1=C(C=C(C=C1)F)[N+](=O)[O-] | C32H31FN2O6
